US04423241
Preparation of 4-Cyano-2,6-dibromophenyl 2,6-dichlorobenzylideneaminooxyacetate (Compound H)
A mixture of 2.1 gm. (0.0076 mole) of 4-cyano-2,6-dibromophenol (m.p. 190.0°-191.5° C.), 40 ml. of toluene and 0.8 gm. (0.008 mole) of triethylamine was stirred in a system protected from atmospheric moisture by a `drying tube`, and to it there were added, in portions, a total of 2.0 grams (0.0075 mole) of 2,6-dichlorobenzylideneaminooxyacetyl chloride. The reaction mixture was then heated for an hour on the steambath; it was filtered hot, washing the triethylamine hydrochloride on the filter with hot toluene, then discarding it. The combined filtrates were evaporated to dryness under reduced pressure, and the residue was triturated with cold methanol, then filtered. The filter-cake was then washed with cold methanol and air-dried to obtain 3.3 gm. (85.6%) of colorless solid, m.p. 166°-168° C. This material was treated with boiling isopropyl alcohol and n-heptane mixture, and was then cooled in ice bath. The solid present was removed by filration, washed on the filter with n-hexane and dried in air to obtain 3.1 gm. of crystalline product melting at 168.0°-170.5° C. (uncorrected).

reactant | 4-cyano-2,6-dibromophenol | 0.0076 mole | C(#N)C1=CC(=C(C(=C1)Br)O)Br | C7H3Br2NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | triethylamine | 0.008 mole | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzylideneaminooxyacetyl chloride | 0.0075 mole, 2.0 grams | ClC(C(=O)Cl)ON=CC1=CC=CC=C1Cl | C9H6Cl3NO2
solvent | n-heptane | CCCCCCC | C7H16
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 4-Cyano-2,6-dibromophenyl 2,6-dichlorobenzylideneaminooxyacetate | ClC(C(=O)OC1=C(C=C(C=C1Br)C#N)Br)ON=CC1=CC=CC=C1Cl | C16H8Br2Cl2N2O3
